US07700657B2
(d) (E)-6-(3-[2-(3,4-Bis-hydroxymethylphenyl)ethyl]-phenyl)-1,1,1-trifluoro-2-trifluoromethyloct-5-en-3-yn-2-ol
In a manner analogous to example 2m, by reaction of 1 g (1.4 mmol) of (E)-6-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}-phenyl)-1,1,1-trifluoro-2-trifluoromethyloct-5-en-3-yn-2-ol with 3.3 ml (3.3 mmol) of a 1.0 M solution of tetrabutylammonium fluoride. A yellowish solid is obtained (m.p.=123° C.; m=570 mg; Y=84%).

reactant | (E)-6-(3-{2-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl]ethyl}-phenyl)-1,1,1-trifluoro-2-trifluoromethyloct-5-en-3-yn-2-ol | 1.4 mmol, 1 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)/C(=C/C#CC(C(F)(F)F)(O)C(F)(F)F)/CC | C37H52F6O3Si2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (E)-6-(3-[2-(3,4-Bis-hydroxymethylphenyl)ethyl]-phenyl)-1,1,1-trifluoro-2-trifluoromethyloct-5-en-3-yn-2-ol | OCC=1C=C(C=CC1CO)CCC=1C=C(C=CC1)/C(=C/C#CC(C(F)(F)F)(O)C(F)(F)F)/CC | C25H24F6O3
